US04227000
By a process similar to that of Example 5, reaction of nitroguanidine, sodium methoxide and ethyl 2-formyl-3-(2-methoxy-4-pyridyl)-propionate gave 2-nitroamino-5-(2-methoxy-4-pyridyl)-4-pyrimidone, m.p. 194°-5.5° (from aqueous acetic acid).

reactant | nitroguanidine | [N+](=O)([O-])NC(=N)N | CH4N4O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | ethyl 2-formyl-3-(2-methoxy-4-pyridyl)-propionate | C(=O)C(C(=O)OCC)CC1=CC(=NC=C1)OC | C12H15NO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-nitroamino-5-(2-methoxy-4-pyridyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)C1=CC(=NC=C1)OC | C10H9N5O4
